US04409214
A suspension of (2-formamidothiazol-5-yl)glyoxylic acid (2.4 g) and methoxylamine hydrochloride (5.0 g) in water (144 ml) was adjusted to pH 4.9-5.0 with a saturated aqueous sodium bicarbonate and the mixture was stirred at ambient temperature for 4.7 hours. After water was added thereto in order to dissolve the insoluble material therein, the aqueous solution was concentrated to a volume of 100 ml. The precipitated material was collected by filtration, washed with water, followed by dissolving in a mixture of tetrahydrofuran and water. This solution was poured into a mixture of ethyl acetate and water, and the organic layer was separated out. After the aqueous solution was extracted with ethyl acetate, the combined ethyl acetate solution was washed with an aqueous sodium chloride and then dried over anhydrous magnesium sulfate. Removal of the solvent gave 2-(2-formamidothiazol-5-yl)-2-methoxyiminoacetic acid (anti isomer) (0.9 g), mp 159° C. (dec.). The filtrate obtained above was further concentrated to a volume of 70 ml, and the precipitated material was collected by filtration to recover the same product (0.23 g). Total yield: 1.13 g.

reactant | (2-formamidothiazol-5-yl)glyoxylic acid | 2.4 g | C(=O)NC=1SC(=CN1)C(C(=O)O)=O | C6H4N2O4S
reactant | methoxylamine hydrochloride | 5.0 g | Cl.O(C)N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 144 ml | O | H2O
product | 2-(2-formamidothiazol-5-yl)-2-methoxyiminoacetic acid | 0.9 g | C(=O)NC=1SC(=CN1)C(C(=O)O)=NOC | C7H7N3O4S
